US06093837
3.7 g of benzofuran-3-one oxime are dissolved in 15 ml of dimethylformamide. At 20° C., 1 g of sodium hydride (60%) is added and the mixture is stirred until the evolution of gas ceases. 3.15 g of dimethyl sulphate are then added dropwise and the mixture is stirred at 20° C. for 24 hours. The reaction mixture is poured into water, extracted with ethyl acetate, the organic phase is dried over sodium sulphate and the solvent is distilled off under reduced pressure. The residue is chromatographed over silica gel using n-hexane/acetone (4:1). 1.7 g (42% of theory) of benzofuran-3-one O-methyl-oxime are obtained as an oil.

reactant | benzofuran-3-one oxime | 3.7 g | O1CC(C2=C1C=CC=C2)=NO | C8H7NO2
reactant | sodium hydride | 1 g | [H-].[Na+]
reactant | dimethyl sulphate | 3.15 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | benzofuran-3-one O-methyl-oxime | 1.7 g, 42% | CON=C1COC2=C1C=CC=C2 | C9H9NO2
